* LMV324 모델 라이브러리 파일
.include mos.lib

* 모델 정의
.subckt LMV324 1 2 3
* 모델 파라미터 설정
.param DC_GAIN=100K
.param GBW=1M
.param OFFSET=1mV
.param CMRR=90dB

* 입력 스테이지
M1 5 1 6 0 N_1 NMOS W=1u L=0.18u
M2 5 2 6 0 N_2 NMOS W=1u L=0.18u
M3 6 6 0 0 N_3 NMOS W=1u L=0.18u
M4 7 1 6 0 P_1 PMOS W=2u L=0.18u
M5 7 2 6 0 P_2 PMOS W=2u L=0.18u
M6 7 7 0 0 P_3 PMOS W=2u L=0.18u

* 중간 스테이지 (오픈 루프 게인)
G1 5 0 7 0 1e-6
G2 0 6 7 0 1e-6

* 출력 스테이지
M7 8 1 0 0 N_4 NMOS W=2u L=0.18u
M8 8 2 0 0 N_5 NMOS W=2u L=0.18u
M9 8 0 0 0 N_6 NMOS W=2u L=0.18u
M10 8 8 0 0 P_4 PMOS W=4u L=0.18u

* 출력
.ends
